US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-3-cyano-7-methyl-4H-indolo[4,5-b]pyran
A mixture of 4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-4H-indolo[4,5-b]pyran (51 mg, 0.124 mmol), iodomethane (23 μL, 0.370 mmol) and cesium carbonate (120 mg, 0.368 mmol) in acetone (2 mL) was stirred at room temperature in a sealed tube. After stirring at room temperature for 2.5 days, the reaction was diluted with EtOAc (20 mL). The insoluble material was filtered, and washed with EtOAc (30 mL). The EtOAc solution were combined, washed with brine (2×5 mL), dried over MgSO4, and evaporated to yield an off-white solid. The crude product was purified by column chromatography (silica gel, EtOAc:hexanes, 1:1) to yield 51 mg (97%) of an off-white solid. 1H NMR (CDCl3): 7.43 (d, J=0.6 Hz, 1H), 7.07 (d, J=3.3 Hz, 1H), 7.05 (dd, J=0.6, 8.4 Hz, 1H), 6.95 (d, J=2.1 Hz, 1H), 6.76 (d, J=2.4 Hz, 1H), 6.72 (d, J=8.4 Hz, 1H), 6.58 (dd, J=0.6, 3.3 Hz, 1H), 4.81 (s, 1H), 3.84 (s, 3H), 3.82 (s, 3H), 3.78 (s, 3H).

reactant | 4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-4H-indolo[4,5-b]pyran | 0.124 mmol, 51 mg | BrC=1C=C(C=C(C1OC)OC)C1C=2C(OC=C1C#N)C1=CC=NC1=CC2 | C20H15BrN2O3
reactant | iodomethane | 0.370 mmol, 23 μL | IC | CH3I
reactant | cesium carbonate | 0.368 mmol, 120 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-3-cyano-7-methyl-4H-indolo[4,5-b]pyran | 51 mg, 97% | BrC=1C=C(C=C(C1OC)OC)C1C2=C(OC=C1C#N)C=1C=CN(C1C=C2)C | C21H17BrN2O3
